US07618993B2
B. tert-butyl [1-(4-{[(2S)-2-methoxypropyl]oxy}phenyl)ethyl]carbamate
To tert-butyl [1-(4-hydroxyphenyl)ethyl]carbamate (0.31 g, 1.3 mmol) in THF (10 mL) (s)-(+)-2-methoxypropanol (0.14 g, 1.5 mmol), triphenylphosphine (0.36 g, 1.4 mmol) and diisopropyl azodicarboxylate (0.27 mL, 1.4 mmol) were added; the resulting reaction mixture stirred at ambient temperature for 21 hours. The volatiles were removed under reduced pressure and the residue purified on silica gel column chromatography using heptanes:ethyl acetate 4:1 affording 0.29 g of tert-butyl [1-(4-{[(2S)-2-methoxypropyl]oxy}phenyl)ethyl]carbamate (74%). 1H NMR (400 MHz, DMSO-d6) δ ppm 7.29 (d, J=8.28 Hz, 1 H) 7.15-7.21 (m, J=8.78 Hz, 2 H) 6.84-6.89 (m, J=8.53 Hz, 2 H) 4.50-4.60 (m, 1 H) 3.84-3.93 (m, 2 H) 3.59-3.68 (m, 1 H) 3.30 (s, 3 H) 1.35 (s, 9 H) 1.26 (d, J=7.03 Hz, 3 H) 1.15 (d, J=6.53 Hz, 3 H). MS (ESI) m/z: 310 [M+H]

reactant | tert-butyl [1-(4-hydroxyphenyl)ethyl]carbamate | 1.3 mmol, 0.31 g | OC1=CC=C(C=C1)C(C)NC(OC(C)(C)C)=O | C13H19NO3
reactant | THF | 1.5 mmol, 10 mL, 0.14 g | C1CCOC1 | C4H8O
reactant | triphenylphosphine | 1.4 mmol, 0.36 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | diisopropyl azodicarboxylate | 1.4 mmol, 0.27 mL | N(=NC(=O)OC(C)C)C(=O)OC(C)C | C8H14N2O4
product | tert-butyl [1-(4-{[(2S)-2-methoxypropyl]oxy}phenyl)ethyl]carbamate | CO[C@H](COC1=CC=C(C=C1)C(C)NC(OC(C)(C)C)=O)C | C17H27NO4
